US09210927B2
Preparation of (E)-N-(2-Chloro-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzyl)-3-(methylsulfonyl)propanamide (CC30)
(E)-N-(2-Chloro-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzyl)-3-(methylthio)propanamide (0.15 g, 0.28 mmol) was treated with oxone (0.175 g, 0.569 mmol) in 1:1 acetone:water (20 mL) for 4 h at ambient temperature. The acetone was evaporated to obtain a white solid (0.095 g, 60%): mp 101-104° C.; 1H NMR (400 MHz, CDCl3) δ 7.41 (m, 4H), 7.24 (m, 1H), 6.53 (d, J=16.0 Hz, 1H), 6.35 (dd, J=16.0, 8.0 Hz, 1H), 6.12 (br s, 1H), 4.53 (m, 2H), 4.10 (m, 1H), 3.42 (m, 2H), 2.91 (s, 3H), 2.78 (m, 2H); ESIMS m/z 559.75 ([M−H]−).

reactant | (E)-N-(2-Chloro-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzyl)-3-(methylthio)propanamide | 0.28 mmol, 0.15 g | ClC1=C(CNC(CCSC)=O)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C21H18Cl4F3NOS
reactant | oxone | 0.569 mmol, 0.175 g | OOS(=O)[O-].[K+]
reactant | acetone | CC(=O)C | C3H6O
solvent | water | 20 mL | O | H2O
product | (E)-N-(2-Chloro-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzyl)-3-(methylsulfonyl)propanamide | 0.095 g, 60% | ClC1=C(CNC(CCS(=O)(=O)C)=O)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C21H18Cl4F3NO3S
